data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(C)C2(F)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(C)C(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(C)C(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(C)C(F)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(C)C(F)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(C)C(F)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c(F)c1", "products": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(F)c1"}, {"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(F)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)cc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)cc1F", "products": "COc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c(F)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(F)c(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1ccc(F)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1ccc(F)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1ccc(F)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1ccc(F)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1ccc(F)c2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)ccc1F.[H+]", "products": "COc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1F"}, {"reactants": "COc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1F", "products": "COc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1F.O"}, {"reactants": "COc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1F", "products": "COc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1F"}, {"reactants": "COc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1F", "products": "COc1cc(C2=C(C)C(C)(C)C(C#[O+])CC2)ccc1F"}, {"reactants": "COc1cc(C2=C(C)C(C)(C)C(C#[O+])CC2)ccc1F.O", "products": "COc1cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)ccc1F"}, {"reactants": "COc1cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)ccc1F", "products": "COc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1F"}, {"reactants": "COc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1F", "products": "COc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1F"}, {"reactants": "COc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1F", "products": "COc1cc(C2CCC3C(=O)OC2(C)C3(C)C)ccc1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC1OC2OC1(C)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1(C)O2"}, {"reactants": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1(C)O2.[O-]C", "products": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1(C)O2"}, {"reactants": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1(C)O2", "products": "COC1OC2OC1(C)C1C(=O)C21"}, {"reactants": "COC1OC2OC1(C)C1C(=O)C21.[O-]C", "products": "COC1OC2OC1(C)C1C2C1([O-])OC"}, {"reactants": "COC1OC2OC1(C)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(C)OC1OC2OC"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(F)C2(Cl)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(F)C(Cl)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(F)C(Cl)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(F)C(Cl)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(F)C(Cl)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(F)C(Cl)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(F)c(Cl)c1)C1C2CCC1C2", "products": "[O][C](c1ccc(F)c(Cl)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(F)c(Cl)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(F)c(Cl)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(F)c(Cl)c1", "products": "OC(=CC1C=CCC1)c1ccc(F)c(Cl)c1"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(F)c(Cl)c1", "products": "O=C(CC1C=CCC1)c1ccc(F)c(Cl)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CC)c2C", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)CC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)CC)c([Si](C)(C)C)cc1=C", "products": "CC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
